US07553837B2
Production of 6-nitro-2-methoxymethyl-2,5,7,8-tetramethylchroman
9.4 g of 6-nitro-2-methoxymethyl-2,5,7,8-tetramethyl (2H) chromene was dissolved in 100 ml of ethanol and 1.0 g of a 10% palladium carbon catalyst was added and, after sealing hydrogen, the catalytic hydrogenation reaction was carried out at room temperature under normal pressure for 24 hours. After the completion of the reaction, the reaction solution was filtered and then concentrated under reduced pressure to obtain 9.5 g of the objective oily compound.

reactant | 6-nitro-2-methoxymethyl-2,5,7,8-tetramethyl (2H) chromene | 9.4 g | [N+](=O)([O-])C=1C(=C2C=CC(OC2=C(C1C)C)(C)COC)C | C15H19NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 6-nitro-2-methoxymethyl-2,5,7,8-tetramethylchroman | 9.5 g | [N+](=O)([O-])C=1C(=C2CCC(OC2=C(C1C)C)(C)COC)C | C15H21NO4
